US07772285B2
1.50 g of 1-[3-methoxy-4-(methoxycarbonyl)-benzyl]cyclopentanecarboxylic acid was dissolved in 15 mL of tetrahydrofuran, to which 10.3 mL of a 1M solution of borane in tetrahydrofuran was added dropwise at 5 to 10° C., and then this mixture was stirred for one hour at room temperature. Then, acetone and water were successively added dropwise to the reaction mixture, which was added to a mixture of ethyl acetate and water, and the organic phase was separated therefrom. After the resultant organic phase was washed with a saturated aqueous solution of sodium hydrogen carbonate, water, and a saturated sodium chloride solution successively, the washed phase was dried over anhydrous magnesium sulfate, and the solvent was distilled out under reduced pressure. The resultant residue was purified by silica gel column chromatography [eluent; hexane:ethyl acetate=1:1] to yield 0.564 g of methyl 4-{[1-(hydroxymethyl) cyclopentyl]methyl}-2-methoxybenzoate as colorless oil.

reactant | 1-[3-methoxy-4-(methoxycarbonyl)-benzyl]cyclopentanecarboxylic acid | 1.50 g | COC=1C=C(CC2(CCCC2)C(=O)O)C=CC1C(=O)OC | C16H20O5
reactant | acetone | CC(=O)C | C3H6O
reactant | water | O | H2O
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofuran | 15 mL | O1CCCC1 | C4H8O
solvent | borane | B | BH3
product | methyl 4-{[1-(hydroxymethyl) cyclopentyl]methyl}-2-methoxybenzoate | 0.564 g | OCC1(CCCC1)CC1=CC(=C(C(=O)OC)C=C1)OC | C16H22O4
